US08431597B2
(2R,4S)-1-tert-butyl 2-methyl 4-(methylsulfonyloxy)piperidine-1,2-dicarboxylate
MsCl (6.61 mL, 85 mmol) was added dropwise at 0° C. to a solution of (2R,4S)-1-tert-butyl 2-methyl 4-hydroxypiperidine-1,2-dicarboxylate (21 g, 81 mmol) and DMAP (100 mg, 0.81 mmol) in pyridine (50 mL). The mixture was stirred at room temperature for 5 hours and then was concentrated under reduced pressure to remove most solvent. Brine (200 mL) was added and extracted with ethyl acetate (2×200 mL). The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give title compound 26.7 g (98%) as colorless oil. LC-MS: 338.1 (t=1.9 min).

reactant | MsCl | 85 mmol, 6.61 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2R,4S)-1-tert-butyl 2-methyl 4-hydroxypiperidine-1,2-dicarboxylate | 81 mmol, 21 g | O[C@@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OC | C12H21NO5
catalyst | DMAP | 0.81 mmol, 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (2R,4S)-1-tert-butyl 2-methyl 4-(methylsulfonyloxy)piperidine-1,2-dicarboxylate | 26.7 g, 98% | CS(=O)(=O)O[C@@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OC | C13H23NO7S
